US04467093
2-Nitrobenzaldehyde-diacetate (0.1 mole, 25.4 g), methyl acetoacetate (0.2 mole, 23.2 g) and NH4OH (12 ml) were heated in methanol (20 ml) in the presence of pyridine for several (7) hours. After cooling to 15° C. the precipitated product was filtered off. The crude product was crystallized from acetic acid to yield 4-(2'-nitrophenyl)-2,6-dimethyl-3,5-dicarbmethoxy-1,4-dihydropyridine (21.7 g, 62% of the theory), m.p. 172°-174° C.

reactant | 2-Nitrobenzaldehyde diacetate | 0.1 mole, 25.4 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1.CC(=O)CC(=O)O
reactant | methyl acetoacetate | 0.2 mole, 23.2 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NH4OH | 12 ml | [NH4+].[OH-]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanol | 20 ml | CO | CH4O
product | 4-(2'-nitrophenyl)-2,6-dimethyl-3,5-dicarbmethoxy-1,4-dihydropyridine | [N+](=O)([O-])C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H18N2O6
